US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-quinoline-8-sulphonamide
Prepared from 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine and quinoline-8-sulphonic acid chloride analogously to Example 2.

reactant | 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)N | C16H22N4O
reactant | quinoline-8-sulphonic acid chloride | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-quinoline-8-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C=2C=CC=C1C=CC=NC21 | C25H27N5O3S
